US07595320B2
Ethyl 3-bromo-1-(1-ethoxyethyl)-1H-thieno[2,3-c]pyrazole-5-carboxylate (10.9 g, 31 mmol), 4-(4-methylpiperazin-1-yl)benzamide (9 g, 41 mmol, 1.3 eq.), copper(I)iodide (0.601 g, 3.1 mmol, 0.1 eq.), preground tripotassium phosphate (20.1 g, 94 mmol, 3 eq.) and 70 mL of anhydrous dioxane degassed beforehand with argon are placed in a 500 mL round-bottomed flask under argon. N,N′-Dimethylethylenediamine (0.336 mL, 3.16 mmol, 0.1 eq.) is added to this suspension by syringe. The reaction mixture is then heated at a temperature in the region of 110° C. for a period of 24 hours. The dioxane is then evaporated off under vacuum and the residue is diluted with ethyl acetate (300 mL) and 150 mL of water. The organic phase is washed with 100 mL of water, dried over magnesium sulfate and then concentrated to dryness under reduced pressure. The residue is purified by chromatography on silica gel, eluting at the start with a dichloromethane/methanol mixture (90/10 by volume). Ethyl 1-(1-ethoxyethyl)-3-[4-(4-methylpiperazin-1-yl)benzoylamino]-1H-thieno[2,3-c]pyrazole-5-carboxylate (4.05 g, 27%) is thus obtained in the form of a pale yellow oil, which product is used directly in the following step.

reactant | Ethyl 3-bromo-1-(1-ethoxyethyl)-1H-thieno[2,3-c]pyrazole-5-carboxylate | 31 mmol, 10.9 g | BrC=1C2=C(N(N1)C(C)OCC)SC(=C2)C(=O)OCC | C12H15BrN2O3S
reactant | 4-(4-methylpiperazin-1-yl)benzamide | 41 mmol, 9 g, 1.3 eq. | CN1CCN(CC1)C1=CC=C(C(=O)N)C=C1 | C12H17N3O
reactant | tripotassium phosphate | 94 mmol, 20.1 g, 3 eq. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-Dimethylethylenediamine | 3.16 mmol, 0.336 mL, 0.1 eq. | CNCCNC | C4H12N2
catalyst | copper(I)iodide | 3.1 mmol, 0.601 g, 0.1 eq. | [Cu]I
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | Ethyl 1-(1-ethoxyethyl)-3-[4-(4-methylpiperazin-1-yl)benzoylamino]-1H-thieno[2,3-c]pyrazole-5-carboxylate | 4.05 g, 27% | C(C)OC(C)N1N=C(C2=C1SC(=C2)C(=O)OCC)NC(C2=CC=C(C=C2)N2CCN(CC2)C)=O | C24H31N5O4S
